US05739336
A mixture of 4-amino-1-[5-(5-chloro-2-methoxyphenyl)-5-oxopentyl]-piperidine-4-carboxamide (0.36 g, 1 mmol), prepared as in Example 21, 1,1'-thiocarbonyldiimidazole (0.23 g, 1.3 mmol), and DMF (3 mL) was heated 5 hours at 50°-60° C. and then diluted with water. The mixture was extracted with ethyl acetate and the extract was dried (MgSO4) and concentrated. The residue was purified by column chromatography eluting with methylene chloride/methanol+ammonium hydroxide (95:5) to give 8-[5-(5-chloro-2-methoxyphenyl)-5-oxopentyl]-2-thioxo-1,3,8-triazaspiro[4.5]decane-4-one (0.12 g, 0.29 mmol), m.p. 152°-154° C. (dec).

reactant | 4-amino-1-[5-(5-chloro-2-methoxyphenyl)-5-oxopentyl]-piperidine-4-carboxamide | 1 mmol, 0.36 g | NC1(CCN(CC1)CCCCC(=O)C1=C(C=CC(=C1)Cl)OC)C(=O)N | C18H26ClN3O3
reactant | 1,1'-thiocarbonyldiimidazole | 1.3 mmol, 0.23 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 8-[5-(5-chloro-2-methoxyphenyl)-5-oxopentyl]-2-thioxo-1,3,8-triazaspiro[4.5]decane-4-one | 0.29 mmol, 0.12 g | ClC=1C=CC(=C(C1)C(CCCCN1CCC2(C(NC(N2)=S)=O)CC1)=O)OC | C19H24ClN3O3S
